US05273740
8-Bromooctanoic acid (200 g) was added slowly to thionyl chloride (325 ml). The mixture was stirred at 60° for 1 hour. Excess thionyl chloride distilled off in vacuo. The dark oily residue was distilled to give 8-bromooctanoyl chloride as colorless oil, b.p. 112°-114°/0.1-0.3 mm Hg, (202.38, 93%).

reactant | 8-Bromooctanoic acid | 200 g | BrCCCCCCCC(=O)O | C8H15BrO2
reactant | thionyl chloride | 325 ml | S(=O)(Cl)Cl | Cl2OS
product | 8-bromooctanoyl chloride | BrCCCCCCCC(=O)Cl | C8H14BrClO
